US05100654
2-Butoxy-5-Formylbenzylphosphonic Acid Diethyl Ester (2c)
4-Butoxy-3-chloromethylbenzaldehyde and triethyl phosphite in a 1:1 ratio were heated until no more gas evolved and the reaction mixture had turned light orange. The reaction mixture was then vacuum distilled to give the desired product. bp 188° C. at 1.4 mm Hg.

reactant | 4-Butoxy-3-chloromethylbenzaldehyde | C(CCC)OC1=C(C=C(C=O)C=C1)CCl | C12H15ClO2
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | 2-Butoxy-5-Formylbenzylphosphonic Acid Diethyl Ester | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)C=O)OCCCC | C16H25O5P
